US09278950B2
A mixture of benzyl [2-({[4-((3R,4R,5S)-3-[(tert-butoxycarbonyl)amino]-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-1-yl)pyridin-3-yl]amino}carbonyl)-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-3-yl]carbamate (0.023 g, 0.028 mmol) in 1.5 mL of MeOH was hydrogenated in the presence of 10% Pd on carbon (10 mg) under a balloon of hydrogen at room temperature for 1 h. The mixture was filtered and the filtrate was concentrated under reduced pressure to afford a hydrogenated intermediate tert-butyl ((3R,4R,5S)-1-[3-({[3-amino-7-(tetrahydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-3-yl)carbamate (0.012 g, 62%). LCMS calc. for C37H55N6O5Si [M+H]+: m/z=691.4. found: 691.5.

reactant | benzyl [2-({[4-((3R,4R,5S)-3-[(tert-butoxycarbonyl)amino]-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-1-yl)pyridin-3-yl]amino}carbonyl)-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-3-yl]carbamate | 0.028 mmol, 0.023 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=1CCOCC1 | C45H58N6O7Si
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 1.5 mL | CO | CH4O
catalyst | Pd on carbon | 10 mg | [Pd] | Pd
product | tert-butyl ((3R,4R,5S)-1-[3-({[3-amino-7-(tetrahydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-3-yl)carbamate | 0.012 g, 62% | NC=1C(=NC2=CC(=CC=C2C1)C1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H]([C@@H]([C@H](C1)C)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C37H54N6O5Si
